US09278931B2
A) 2,2,2-trichloroethyl(4-{trans-2-[(tert-butoxycarbonyl)amino]cyclopropyl}phenyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (16.8 g) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) and triethylamine (11.32 mL) in THF (338 mL) was added 2,2,2-trichloroethyl chloroformate (11.2 mL). The mixture was stirred at room temperature overnight, and poured into saturated aqueous ammonium chloride solution. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (19.0 g).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 16.8 g | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | triethylamine | 11.32 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl chloroformate | 11.2 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 338 mL | C1CCOC1 | C4H8O
product | 2,2,2-trichloroethyl(4-{trans-2-[(tert-butoxycarbonyl)amino]cyclopropyl}phenyl)carbamate | 19.0 g | ClC(COC(NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C17H21Cl3N2O4
